US09302988B2
Step 1: (E)-4-Chloro-2-fluoro-1-(2-nitroprop-1-enyl)benzene
4-Chloro-2-fluorobenzaldehyde (10 g, 63.1 mmol), nitroethane (54.6 mL, 757 mmol) and piperidine (1.869 mL, 18.92 mmol) were dissolved in toluene (150 mL) and refluxed under Dean Stark conditions overnight. The reaction mixture was cooled to room temperature and the solvents were evaporated. The crude product was purified by column chromatography (silica, heptane/EtOAc 98:2) to give the desired product (10.4 g, 76%) as a yellow solid.

reactant | 4-Chloro-2-fluorobenzaldehyde | 63.1 mmol, 10 g | ClC1=CC(=C(C=O)C=C1)F | C7H4ClFO
reactant | nitroethane | 757 mmol, 54.6 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | piperidine | 18.92 mmol, 1.869 mL | N1CCCCC1 | C5H11N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-4-Chloro-2-fluoro-1-(2-nitroprop-1-enyl)benzene | 10.4 g, 76% | ClC1=CC(=C(C=C1)\C=C(/C)\[N+](=O)[O-])F | C9H7ClFNO2
